US07579469B2
Synthesis 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1,3-dihydroindol-2-one
To a solution of 42 mg (0.31 mmol) of oxindole in 1 mL of DMF was added 10 mg (0.39 mmol) of 60% sodium hydride in mineral oil. After hydrogen evolution ceased, 50 mg (0.17 mmol) of 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane was added and the mixture was warmed to 75° C. The reaction was monitored by TLC (ethyl acetate-hexanes (15:85)). After 40 minutes, the mixture was cooled and diluted with saturated aqueous ammonium chloride and extracted with three 5 mL portions of ethyl acetate. The combined organic layers were washed with three 5 mL portions of brine, dried over magnesium sulfate, and concentrated in vacuo. The crude material was chromatographed on silica gel prep plates (2×1 mm, ethyl acetate-hexanes (15:85)). The material from the prep plate was recrystallized from dichloromethane-hexanes-ether to afford 14 mg of the title compound.

reactant | oxindole | 0.31 mmol, 42 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydride | 0.39 mmol, 10 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | 0.17 mmol, 50 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1,3-dihydroindol-2-one | 14 mg | FC=1C=CC(=C(C1)C(CC(CN1C(CC2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C22H23F4NO3
